US05935952
In 0.5 ml of 47% hydrobromic acid was suspended 50 mg of 1-cyclopropyl-6-fluoro-8-methoxy-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, and to the suspension were added 26 mg of phenol and 0.3 ml of propionic acid, after which the resulting mixture was stirred at 130° C. for six hours. The reaction mixture was concentrated under reduced pressure, and to the residue obtained were added 0.3 ml of ethanol, 0.3 ml of 1N aqueous sodium hydroxide solution and 0.3 ml of water to dissolve the residue. Thereafter, a carbon dioxide gas was blown into the solution, and the crystals precipitated were collected by filtration, to obtain 12 mg of pale yellow, crystalline 1-cyclopropyl-6-fluoro-8-hydroxy-7-(isoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 1-cyclopropyl-6-fluoro-8-methoxy-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 50 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)C=1C=C2CN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)F)=O)C(=O)O | C29H25FN2O6S
reactant | phenol | 26 mg | C1(=CC=CC=C1)O | C6H6O
reactant | propionic acid | 0.3 ml | C(CC)(=O)O | C3H6O2
reactant | sodium hydroxide | 1N, 0.3 ml | [OH-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | hydrobromic acid | 0.5 ml | Br | BrH
solvent | water | 0.3 ml | O | H2O
solvent | ethanol | 0.3 ml | C(C)O | C2H6O
product | 1-cyclopropyl-6-fluoro-8-hydroxy-7-(isoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)O)C=1C=C2CNCC2=CC1)F)=O)C(=O)O | C21H17FN2O4
